US06376490B1
6,7-Dichloro-2,3-dimethoxy-5-[1-(2-hydroxyethyl)-1H-tetrazol-5-yl]quinoxaline
Diisobutylaluminium hydride (1M in tetrahydrofuran, 0.7 mL, 0.7 mmol) was added dropwise to a stirred solution of 6,7-dichloro-2,3-dimethoxy-5-(1-methoxycarbonylmethyl-1H-tetrazol-5-yl)quinoxaline (Preparation 11, 0.126 g, 0.32 mmol) in dichloromethane (15 mL) at −78° C. under nitrogen. After 1 hour, the reaction mixture was allowed to warm to room temperature and diisobutylaluminium hydride (1M in tetrahydrofuran, 0.7 mL, 0.7 mmol) was added, followed 30 minutes later by further diisobutylaluminium hydride (1M in tetrahydrofuran, 0.7 mL, 0.7 mmol). After a further 0.25 hours saturated ammonium chloride solution (20 mL) was added to the mixture and the aqueous phase was extracted with dichloromethane (2×25 mL). The combined organic extracts were washed with brine (50 mL), dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, eluting with dichloromethane:methanol (99:1, by volume) to give the title compound (93 mg, 79%) as a white solid.

reactant | Diisobutylaluminium hydride | 0.7 mmol, 1M, 0.7 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 6,7-dichloro-2,3-dimethoxy-5-(1-methoxycarbonylmethyl-1H-tetrazol-5-yl)quinoxaline | 0.32 mmol, 0.126 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C1=NN=NN1CC(=O)OC | C14H12Cl2N6O4
reactant | diisobutylaluminium hydride | 0.7 mmol, 1M, 0.7 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminium hydride | 0.7 mmol, 1M, 0.7 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 6,7-Dichloro-2,3-dimethoxy-5-[1-(2-hydroxyethyl)-1H-tetrazol-5-yl]quinoxaline | 93 mg, 79% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C1=NN=NN1CCO | C13H12Cl2N6O3
